US07714010B2
(A11) 5-Amino-1-benzyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1 g) is alkylated using benzyl bromide (0.46 ml; 3.9 mmol) and K2CO3 (1.5 g; 10.9 mmol) at RT for 20 h. After filtration and evaporation of the solvent the crude material is de-acetylated under reflux conditions in 2-propanol (10 ml) and hydrochloric acid (6 N, 30 ml). Pure 5-amino-1-benzyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (1.04 g) precipitates by pouring the reaction mixture into ice-water.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | benzyl bromide | 3.9 mmol, 0.46 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 10.9 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-Amino-1-benzyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC1=CC=CC=C1)=O)(C)C | C17H17N3O3
